US07081463B2
A 1-L 3-neck flask equipped with an overhead stirrer and a thermocouple was charged with 8-methyl-naphthalene-1-carbaldehyde (13.75 g, 0.08 mol) and 1-(4-fluoro-phenyl)-1,3,8-triaza-spiro[4.5]decan-4-one (21.5 g, 0.085 mol) under N2 in CH2Cl2 (500 mL). After stirring for 20 min, HOAc (1 mL) was added followed by careful addition of solid NaBH(OAc)3 (33.4 g, 0.157 mol). The mixture was stirred for 16 h at room temperature (suspension becomes a solution). The reaction was then warmed at 50° C. for 2 h, cooled down to room temperature and then treated with 0.5 N NaOH (50 mL), stirred for 10 min and then diluted with CH2Cl2 (100 mL). The organic layer was isolated and dried over MgSO4. The solvent was evaporated to yield a residue, which was suspended in diethyl ether, stirred for 20 min, filtered and dried in a 60° C. vacuum oven to yield 1-(4-fluoro-phenyl)-8-(8-methyl-naphthalen-1-ylmethyl)-1,3,8-triaza-spiro[4.5]-decan-4-one as a white solid;

reactant | 8-methyl-naphthalene-1-carbaldehyde | 0.08 mol, 13.75 g | CC=1C=CC=C2C=CC=C(C12)C=O | C12H10O
reactant | 1-(4-fluoro-phenyl)-1,3,8-triaza-spiro[4.5]decan-4-one | 0.085 mol, 21.5 g | FC1=CC=C(C=C1)N1CNC(C12CCNCC2)=O | C13H16FN3O
reactant | NaBH(OAc)3 | 0.157 mol, 33.4 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaOH | 0.5 N, 50 mL | [OH-].[Na+]
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | HOAc | 1 mL | CC(=O)O | C2H4O2
product | 1-(4-fluoro-phenyl)-8-(8-methyl-naphthalen-1-ylmethyl)-1,3,8-triaza-spiro[4.5]-decan-4-one | FC1=CC=C(C=C1)N1CNC(C12CCN(CC2)CC2=CC=CC1=CC=CC(=C21)C)=O | C25H26FN3O
